US04851526
1-[(Cyclopropyl)methyl]-N-ethyl-N-[4-(1H-imidazol-1-yl)-phenyl]-3-pyrrolidinemethanamine
In a manner similar to Preparation 2, react 1-cyclopropylmethyl-3-pyrrolidinemethanol methanesulfonate with N-ethyl-4-(1H-imidazol-1-yl)benzenamine to obtain the title compound.

reactant | 1-cyclopropylmethyl-3-pyrrolidinemethanol methanesulfonate | CS(=O)(=O)OCC1CN(CC1)CC1CC1 | C10H19NO3S
reactant | N-ethyl-4-(1H-imidazol-1-yl)benzenamine | C(C)NC1=CC=C(C=C1)N1C=NC=C1 | C11H13N3
product | 1-[(Cyclopropyl)methyl]-N-ethyl-N-[4-(1H-imidazol-1-yl)-phenyl]-3-pyrrolidinemethanamine | C1(CC1)CN1CC(CC1)CN(C1=CC=C(C=C1)N1C=NC=C1)CC | C20H28N4
